US05041448
A mixture of 40 parts of methyl 3-methyl-4-[(phenylmethyl)amino]-1-piperidinecarboxylate and 160 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated to dry. The residue was distilled (bp. 80° C. at 0.1 mm. pressure). The distillate was further purified by gas-chromatography (at 215° C. and at 10 lbs/sq. inch), yielding 8.6 parts of methyl 4-amino-3-methyl-1-piperidinecarboxylate (interm. 27)

reactant | methyl 3-methyl-4-[(phenylmethyl)amino]-1-piperidinecarboxylate | CC1CN(CCC1NCC1=CC=CC=C1)C(=O)OC | C15H22N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 4-amino-3-methyl-1-piperidinecarboxylate | NC1C(CN(CC1)C(=O)OC)C | C8H16N2O2
